US08754054B2
Following General Procedure: Method B using (6R,6aS,14aR)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate (35 mg, 0.050 mmol), potassium carbonate (21 mg, 0.15 mmol) and 3-picolyl chloride hydrochloride (25 mg, 0.15 mmol), the product was purified by preparative TLC (silica gel, 95:5 dichloromethane/methanol) and converted to hydrochloride to afford (6R,6aS,14aR)-methyl 6,8,14a-trihydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-1-(pyridin-3-ylmethoxy)-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate hydrochloride (13 mg, 31%) as an orange-red solid: 1H NMR (500 MHz, CDCl3) δ 14.21 (s, 1H), 8.79 (br s, 2H), 8.26 (d, J=4.1 Hz, 1H), 7.87 (br s, 1H), 7.41 (s, 1H), 6.92 (s, 1H), 6.89 (br s, 1H), 5.85 (s, 1H), 5.12 (d, J=11.2 Hz, 1H), 5.05 (d, J=11.3 Hz, 1H), 4.98 (br s, 1H), 4.66 (br s, 1H), 4.39 (br s, 1H), 3.85 (s, 3H), 3.81-3.74 (m, 1H), 3.72 (s, 3H), 3.65 (dd, J=19.3, 7.3 Hz, 1H), 3.60 (s, 3H), 3.43 (s, 1H), 3.40 (s, 3H), 3.36-3.31 (m, 1H), 3.14 (t, J=9.0 Hz, 1H), 2.51 (br s, 1H), 2.24 (s, 3H), 1.36 (d, J=6.1 Hz, 3H); MS (ESI+) m/z 789 (M+H); HPLC >99% (AUC), tR 12.34 min.

reactant | (6R,6aS,14aR)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate | 0.050 mmol, 35 mg | OC1=C(C(=CC2=C1[C@@]1(C(C3=CC=4C(C(=CC(C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=O)N[C@H]2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)C)C(=O)OC | C34H35NO15
reactant | potassium carbonate | 0.15 mmol, 21 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-picolyl chloride hydrochloride | 0.15 mmol, 25 mg | Cl.N1=CC(=CC=C1)CCl
product | (6R,6aS,14aR)-methyl 6,8,14a-trihydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-1-(pyridin-3-ylmethoxy)-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate hydrochloride | 13 mg, 31% | Cl.O[C@@H]1CC2=C([C@@]3(C(C4=CC=5C(C(=CC(C5C(=C4C([C@]13OC)=O)O)=O)N[C@H]1O[C@H]([C@@H]([C@H]([C@H]1OC)O)OC)C)=O)=O)O)C(=C(C(=C2)C)C(=O)OC)OCC=2C=NC=CC2 | InChI=1S/C40H40N2O15.ClH/c1-16-10-19-11-24(44)40(55-6)36(49)27-21(35(48)39(40,51)28(19)33(25(16)38(50)54-5)56-15-18-8-7-9-41-14-18)12-20-26(30(27)46)23(43)13-22(29(20)45)42-37-34(53-4)31(47)32(52-3)17(2)57-37;/h7-10,12-14,17,24,31-32,34,37,42,44,46-47,51H,11,15H2,1-6H3;1H/t17-,24+,31+,32-,34+,37-,39-,40+;/m0./s1
